US06303790B1
A mixture of 6.0 g (16.5 mMol) N-tert.-butyl-6-morpholin-4-yl-4-o-tolyl-nicotinamide and 12 ml (185 mMol) methanesulfonic acid was stirred at 100° C. for 5 hours, then poured on ice. The aqueous phase was extracted with tert.-butyl-methylether, brought to pH=10 with NaOH aq. 28% and extracted further with tert.-butyl-methylether. The second organic extracts were dried (Na2SO4) and concentrated to yield 4.75 g (96%) 6-morpholin-4-yl-4-o-tolyl-nicotinamide as a light beige crystalline foam.

reactant | N-tert.-butyl-6-morpholin-4-yl-4-o-tolyl-nicotinamide | 16.5 mMol, 6.0 g | C(C)(C)(C)NC(C1=CN=C(C=C1C1=C(C=CC=C1)C)N1CCOCC1)=O | C21H27N3O2
reactant | methanesulfonic acid | 185 mMol, 12 ml | CS(=O)(=O)O | CH4O3S
product | 6-morpholin-4-yl-4-o-tolyl-nicotinamide | 4.75 g, 96% | N1(CCOCC1)C1=NC=C(C(=O)N)C(=C1)C1=C(C=CC=C1)C | C17H19N3O2
